*
L1 N003 N004 220µ Rser=1m
C2 N004 0 470µ
Rload N004 0 10
D1 0 N003 1N5819
M1 N002 N005 N003 N003 IRFZ44N
V3 N005 0 PULSE(0 10 0 1n 1n 20u 40u)
Cpv N002 0 100µ
Rs N002 N001 0.5
Rsh N001 0 100
D2 N001 0 D
I1 0 N001 3.2
.model D D
.lib C:\Users\Rajat\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Rajat\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 10m 0 10n
.backanno
.end
